US07754742B2
Stir 1-(2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-2-methyl-propan-1-one (1460 g, 3.07 mol) in dimethyl sulfide (8 L, 108.81 mol), treat with methanesulfonic acid (2.5 L, 38.13 mol), then gently reflux overnight. Cool mixture to 33° C. and treat with cracked ice (˜6 Kg) at such a rate as to keep the mixture below reflux. Transfer mixture to a separatory funnel, separate layers, and extract water layer with ethyl acetate (6 L). Wash organic layers with water (4 L), saturated sodium chloride solution (4 L), dry with magnesium sulfate, filter, and evaporate to a brown solid. Re-crystallize the solid from toluene (4 L) to afford 527 g of 1-(2,4-dihydroxy-3-trifluoromethyl-phenyl)-2-methyl-propan-1-one as a tan solid (3 crops). The filtrate is concentrated to 380 g of a black gritty oil and filtered through a pad of silica gel to provide 216 g of a yellow solid, which is re-crystallized from toluene to afford 69 g of additional material. All lots are combined to provide the title compound (596 g, 78% yield): HPLC Rt=4.98 min; 1H NMR (DMSO-d6) δ 14.15 (s, 1H), 11.70 (s, 1H), 8.06 (d, J=8.0 Hz, 1H), 6.57 (d, J=8.0 Hz, 1H), 3.62 (hept, J=8.0 Hz, 1H), 1.11 (d, J=8.0 Hz, 6H); 19F NMR (DMSO-d6) δ-54.50; MS (m/z): 249.0 (M+1).

reactant | 1-(2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-2-methyl-propan-1-one | 3.07 mol, 1460 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=CC=C1)C(C(C)C)=O | C25H23F3O3
reactant | dimethyl sulfide | 108.81 mol, 8 L | CSC | C2H6S
reactant | methanesulfonic acid | 38.13 mol, 2.5 L | CS(=O)(=O)O | CH4O3S
product | 1-(2,4-dihydroxy-3-trifluoromethyl-phenyl)-2-methyl-propan-1-one | 527 g | OC1=C(C=CC(=C1C(F)(F)F)O)C(C(C)C)=O | C11H11F3O3
